US04965260
b. 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-[N-(4-allyloxycarbonylaminophenyl)-N-(allyloxycarbonyl)-glycylthio]2-oxo-azetidin-1-yl]-2-triphenylphosphoran-ylideneacetic acid allyl ester
Analogously to Example 1, 2.67 g of N-(4-allyloxy-carbonylaminophenyl)-N-(allyloxycarbonyl)-glycine are converted with 3.5 g of the silver salt of 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester into the title compound.

reactant | N-(4-allyloxy-carbonylaminophenyl)-N-(allyloxycarbonyl)-glycine | 2.67 g | C(C=C)OC1=CC(=C(C=C1)N(CC(=O)O)C(=O)OCC=C)N=C=O | C16H16N2O6
reactant | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1S)[C@@H](C)OC(=O)OCC=C)=O)=O | C32H32NO6PS
catalyst | silver | 3.5 g | [Ag] | Ag
product | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-[N-(4-allyloxycarbonylaminophenyl)-N-(allyloxycarbonyl)-glycylthio]2-oxo-azetidin-1-yl]-2-triphenylphosphoran-ylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1SC(CN(C(=O)OCC=C)C1=CC=C(C=C1)NC(=O)OCC=C)=O)[C@@H](C)OC(=O)OCC=C)=O)=O | C48H48N3O11PS
